US07763731B2
2-Chloro-1-(4-chloro-phenoxy)-4-nitro-benzene
A solution of 1,2-dichloro-4-nitro-benzene (9.2 g, 48 mmol), 4-chloro-phenol (6.2 g, 48 mmol) and potassium carbonate (19.9 g, 144 mmol) in DMF (80 mL) was heated to 90° C. for 16 hours. After cooling to room temperature the mixture was poured into water (600 mL) and extracted with ethyl acetate. The combined extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated under vacuum to provide the title compound (13.5 g, 99%).

reactant | 1,2-dichloro-4-nitro-benzene | 48 mmol, 9.2 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C6H3Cl2NO2
reactant | 4-chloro-phenol | 48 mmol, 6.2 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 144 mmol, 19.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 600 mL | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-1-(4-chloro-phenoxy)-4-nitro-benzene | 13.5 g, 99% | ClC1=C(C=CC(=C1)[N+](=O)[O-])OC1=CC=C(C=C1)Cl | C12H7Cl2NO3
